US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole (3.0 g) and 3-butenoic acid (1.0 g) in acetonitrile (15 mL) were added triethylamine (2.4 g), palladium acetate(II) (0.11 g) and tris(2-methylphenyl)phosphine (0.29 g), and the mixture was refluxed overnight under shading the light. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-dichloromethane/methanol=10/1) to give the title compound (1.74 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole | 3.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)Br)C(C)C | C27H33BrN2O10
reactant | 3-butenoic acid | 1.0 g | C(CC=C)(=O)O | C4H6O2
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | tris(2-methylphenyl)phosphine | 0.29 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | 1.74 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
